US05650533
A solution of potassium peroxymonosulphate (23.8 g) in water was added to a solution of 4-methyl-2-methylsulphenylbenzoic acid (4.7 g) in methanol. The mixture was stirred for 5 hours and left to stand overnight at room temperature. The methanol was removed by evaporation and the resulting suspension was diluted with water and extracted with chloroform. The organic layer was dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was triturated with a mixture of ether and cyclohexane to give 4-methyl-2-methylsulphonylbenzoic acid (4.4 g) as a cream solid, m.p. 174°-174.5° C.

reactant | potassium peroxymonosulphate | 23.8 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | 4-methyl-2-methylsulphenylbenzoic acid | 4.7 g | CC1=CC(=C(C(=O)O)C=C1)SC | C9H10O2S
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-methyl-2-methylsulphonylbenzoic acid | 4.4 g | CC1=CC(=C(C(=O)O)C=C1)S(=O)(=O)C | C9H10O4S
